US06916804B2
N-{2-[(6-{[2-(Acetylamino)ethyl]amino}-5-methyl-2-phenylpyrimidin-4-yl)-amino]ethyl}benzamide (41.1)
Benzoic acid (55.8 mg), N,N-diisopropylethylamine (80 μl) and HATU (160 mg) were stirred in NMP (6851 μl) for 30 min. After this time N-[2-({6-[(2-aminoethyl)amino]-5-methyl-2-phenylpyrimidin-4-yl}amino)ethyl]acetamide (150 mg) was added and the mixture stirred for 16 hrs at room temperature. Purification via SCX resin furnished the title compound (54 mg).

reactant | Benzoic acid | 55.8 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | N,N-diisopropylethylamine | 80 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | HATU | 160 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-[2-({6-[(2-aminoethyl)amino]-5-methyl-2-phenylpyrimidin-4-yl}amino)ethyl]acetamide | 150 mg | NCCNC1=C(C(=NC(=N1)C1=CC=CC=C1)NCCNC(C)=O)C | C17H24N6O
solvent | NMP | 6851 μl | CN1CCCC1=O | C5H9NO
product | N-{2-[(6-{[2-(Acetylamino)ethyl]amino}-5-methyl-2-phenylpyrimidin-4-yl)-amino]ethyl}benzamide | 54 mg | C(C)(=O)NCCNC1=C(C(=NC(=N1)C1=CC=CC=C1)NCCNC(C1=CC=CC=C1)=O)C | C24H28N6O2
